US04029493
2-chloro-4-(2',4'-dichlorophenoxy)benzonitrile
A stirred solution of 2,4-dichlorobenzonitrile (51.6 g., 0.03 mole) and the potassium salt of 2,4-dichlorophenol (60.3 g., 0.03 mole) in 250 ml. of dimethyl acetamide was heated for 24 hours at 120° C. The cooled reaction mixture was diluted with 1000 ml. of water and the resultant oil was extracted with ether. Evaporation of the ether solution gave 88.0 g. of brown oil. Analysis by v.p.c. showed a 2:1 mixture of the desired compound and the isomeric 4-chloro-2-(2',4'-dichlorophenoxy) benzonitrile. A series of fractional crystallizations from 60°-110° C. petroleum ether gave the desired 2-chloro-4-(2',4'-dichlorophenoxy)benzonitrile with a melting point of 69°-74° C. The minor isomeric by-product melted at 110°-113° C.

reactant | 2,4-dichlorobenzonitrile | 0.03 mole, 51.6 g | ClC1=C(C#N)C=CC(=C1)Cl | C7H3Cl2N
reactant | potassium | [K] | K
reactant | 2,4-dichlorophenol | 0.03 mole, 60.3 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
solvent | dimethyl acetamide | CC(=O)N(C)C | C4H9NO
product | 2-chloro-4-(2',4'-dichlorophenoxy)benzonitrile | ClC1=C(C#N)C=CC(=C1)OC1=C(C=C(C=C1)Cl)Cl | C13H6Cl3NO
